US06627630B1
Production of Methyl 6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2-carboxylate
0.92 g of methyl 6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carboxylate and 1.40 g of 4-(diphenylmethoxy)-1-piperidinepropanamine were suspended in 20 ml of N,N-dimethylformamide; 1.49 ml of N-ethyldiisopropylamine was added, followed by heating and refluxing at 80° C. for 15 hours. After cooling, ice water and sodium chloride were added, followed by extraction with ethyl acetate-tetrahydrofuran (1:2); the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected and concentrated; the residue was recrystallized from ethanol-ethyl acetate (1:2) to yield 639 mg of the title compound.

reactant | methyl 6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carboxylate | 0.92 g | ClC=1C=CC=2N(N1)N=C(N2)C(=O)OC | C7H5ClN4O2
reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.40 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-ethyldiisopropylamine | 1.49 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2-carboxylate | 639 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)N=C(N2)C(=O)OC)C2=CC=CC=C2 | C28H32N6O3
